US07790741B2
4-(6-(6-(4-Fluorophenyl)imidazo[2,1-b]oxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)-2-methylbutan-2-ol
A 25 mL flask was charged with 4-(6-(6-(4-fluorophenyl)imidazo[2,1-b]oxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)-2-methylbutan-2-yl acetate (0.196 g, 0.438 mmol; Example #K.1.1.7) in 1,4-dioxane (2 mL) to give a yellow solution. To the solution was added 5.0 M aqueous HCl (0.44 mL, 2.2 mmol) and the mixture was stirred at ambient temperature. After about 16 h, aqueous NaOH was added to the mixture and a precipitate formed. The precipitate was collected via filtration and was rinsed with water. The material was dried in a vacuum oven to furnish the title compound as an off-white solid (0.036 g, 21%): LC/MS (Table 1, Method a) Rt=1.89 min; MS m/z/z: 406.2 (M+H)+.

reactant | 4-(6-(6-(4-fluorophenyl)imidazo[2,1-b]oxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)-2-methylbutan-2-yl acetate | 0.438 mmol, 0.196 g | C(C)(=O)OC(C)(CCC1=NN=C2N1C=C(C=C2)C2=C(N=C1OC=CN12)C1=CC=C(C=C1)F)C | C24H22FN5O3
reactant | HCl | 2.2 mmol, 5.0 M, 0.44 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 4-(6-(6-(4-Fluorophenyl)imidazo[2,1-b]oxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)-2-methylbutan-2-ol | 0.036 g, 21% | FC1=CC=C(C=C1)C=1N=C2OC=CN2C1C=1C=CC=2N(C1)C(=NN2)CCC(C)(O)C | C22H20FN5O2
